US09233098B2
4. Preparation of ethyl 2-[3-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-1-yl]acetate
In a dry reaction vessel, ethyl 2-[3-(4-aminobenzyl)-2-methyl-1H-indol-1-yl]acetate (1.644 g, 5.1 mmol) was added, and dissolved in 30 mL dichloromethane. Triethylamine (2.13 mL, 15.3 mmol) was added, and in an ice bath a dichloromethane solution dissolving 2-naphthoyl chloride (1.067 g, 5.6 mmol) was added slowly. After completion of dropwise addition, it was reacted in an ice bath for 1 h, and stirred at room temperature overnight. It was filtered. An aqueous solution of sodium bicarbonate was added, extracted with dichloromethane, rotate evaporated to dryness, chromatographed on a column to obtain a white solid 0.53 g, at a yield of 21.8%.

reactant | ethyl 2-[3-(4-aminobenzyl)-2-methyl-1H-indol-1-yl]acetate | 5.1 mmol, 1.644 g | NC1=CC=C(CC2=C(N(C3=CC=CC=C23)CC(=O)OCC)C)C=C1 | C20H22N2O2
reactant | Triethylamine | 15.3 mmol, 2.13 mL | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 5.6 mmol, 1.067 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | ethyl 2-[3-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-1-yl]acetate | 0.53 g, yield of 21.8% | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CC2=C(N(C3=CC=CC=C23)CC(=O)OCC)C)C=C1 | C31H28N2O3
